US06506747B1
5-Dimethylamino-3-trifluoromethylpyrazole (2.9 mmol) was reacted with 4-nitrofluorobenzene (2.9 mmol), as described in Method L, to give 1-(4′-nitrophenyl)-5-dimethylamino-3-trifluoromethylpyrazole which was purified by chromatography over silica gel (hexanes/EtOAc, 8:2) (0.423 g, 46%). The nitrophenylpyrazole (1.35 mmol) was reduced by phase transfer hydrogenation, described generally in Method L, to give 1(4′-aminophenyl)-5-dimethylamino-3-trifluoromethylpyrazole as an off-white solid (0.321 g, 84%).

reactant | 5-Dimethylamino-3-trifluoromethylpyrazole | 2.9 mmol | CN(C1=CC(=NN1)C(F)(F)F)C | C6H8F3N3
reactant | 4-nitrofluorobenzene | 2.9 mmol | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
product | 1-(4′-nitrophenyl)-5-dimethylamino-3-trifluoromethylpyrazole | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1N(C)C)C(F)(F)F | C12H11F3N4O2
